US07897595B2
Nitric Acid (200 μl) was added dropwise to a stirred solution of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (174 mg, 604 μmol) in H2SO4 (1.5 ml). The reaction mixture was added into cold water after 3 d of stirring at room temperature. K2CO3 was added to neutralize the mixture to pH=8. After extraction with EtOAc, the organic layer was dried over Na2SO4, concentrated in vacuo and purified by column chromatography to give 155 mg (77%) of 2-methoxy-5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. MS (ESI) m/z 334. After treatment of 2-methoxy-5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (30.0 mg, 90.0 μmol) with K2CO3 (30 mg), methanol (1 ml) and H2O (0.2 ml) at 60° C. for 10 minutes, the reaction was quenched with sat. aq. NH4Cl and extracted with DCM. The organic layer was dried over Na2SO4, concentrated in vacuo and purified by column chromatography to give 21 mg (99%) of 2-methoxy-5-methyl-3-nitro-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 8.10 (s, 1H), 4.09 (s, 3H), 3.25 (m, 2H), 3.10 (m, 3H), 2.93 (dd, 1H), 2.72 (dd, 1H), 1.39 (d, 3H) ppm.

reactant | 2-methoxy-5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 90.0 μmol, 30.0 mg | COC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)[N+](=O)[O-] | C13H14F3N3O4
reactant | K2CO3 | 30 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methanol | 1 ml | CO | CH4O
solvent | H2O | 0.2 ml | O | H2O
product | 2-methoxy-5-methyl-3-nitro-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 21 mg, 99% | COC=1C(=CC2=C(CCNCC2C)N1)[N+](=O)[O-] | C11H15N3O3
